US04125718
3. 2-hydroxy-1,2,3,4,4a,13b-hexahydro-tribenzo(b,d,f)-oxepine
1.0 g of 2-keto-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine is added to a suspension of 10 mg PtO2 (Adams catalyst) in 50 ml glacial acetic acid. The mixture is put in a hydrogenation apparatus under hydrogen atmosphere and shaken for 3 hours. After that time the theoretical quantity of hydrogen has been absorbed. The mixture is then filtered to remove the catalyst, whereupon the filtrate is evaporated in vacuo, yielding a light yellow oil.

reactant | 2-keto-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine | 1.0 g | O=C1CC2=C(C3=C(OC4=C2C=CC=C4)C=CC=C3)CC1 | C18H14O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 10 mg | O=[Pt]=O
product | 2-hydroxy-1,2,3,4,4a,13b-hexahydro-tribenzo(b,d,f)-oxepine | OC1CC2C(C3=C(OC4=C2C=CC=C4)C=CC=C3)CC1 | C18H18O2
